US07361682B2
a) Step 1: (5-hydroxy-1H-indol-2-yl)-morpholin-4-yl-methanone
A mixture of 1.77 g (0.01 mol) 5-hydroxy-indole-2-carboxylic acid in 25 ml DMF were cooled to 0° C. and treated with 3.53 g (0.011 mol) 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyl uronium tetrafluoroborat, 0.96 g (0.011 mol) morpholine and 8.6 ml (0.05 mol) N-ethyldiisopropylamine. The mixture was allowed to warm to room temperature and stirred for additional 16 h. After evaporation to dryness the residue was taken up in 75 ml ethyl acetate, 75 ml THF, 100 ml water and 50 ml 10% NaHCO3 solution. The aqueous phase was extracted with 50 ml ethyl acetate and 50 ml THF. The combined organic layers were washed with 100 ml NaCl satur.aq., dried with Na2SO4, filtered and evaporated to dryness. The residue was suspended in 30 ml of a mixture of ethyl acetate/methanol 9/1, filtered and again suspended in 20 ml of a mixture of ethyl acetate/methanol 9/1. The residue was washed in diethyl ether and dried at 40° C. under vacuum to yield 2.04 g (83%) of the title compound as white solid. MS (m/e): 247.4 (MH+, 100%).

reactant | 5-hydroxy-indole-2-carboxylic acid | 0.01 mol, 1.77 g | OC=1C=C2C=C(NC2=CC1)C(=O)O | C9H7NO3
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyl uronium tetrafluoroborat | 0.011 mol, 3.53 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | morpholine | 0.011 mol, 0.96 g | N1CCOCC1 | C4H9NO
reactant | N-ethyldiisopropylamine | 0.05 mol, 8.6 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | (5-hydroxy-1H-indol-2-yl)-morpholin-4-yl-methanone | 2.04 g, 83% | OC=1C=C2C=C(NC2=CC1)C(=O)N1CCOCC1 | C13H14N2O3
